US09056873B2
Step A: 2-Chloro-5,6-difluoronicotinonitrile
To 2,6-dichloro-5-fluoronicotinonitrile (50 g, 262 mmol) was added spray-dried potassium fluoride (30 g, 516 mmol) followed immediately by the addition of anhydrous DMSO (125 mL). The reaction mixture was stirred at 20° C. for 16-20 hours. The progress of the reaction was closely monitored by HPLC. When the product concentration reached maximum (˜79%), the reaction was worked up immediately. Ethyl acetate (1000 mL) was added to the reaction mixture followed by the addition of ice (50 g). Water (500 mL) was then slowly added with cooling to ensure the temperature did not exceed 25° C. The organic phase and the aqueous phase were separated. The organic phase was washed with water (400 mL). Active carbon (12 g, Darco G-60, 100 mesh) was added and the mixture was stirred for 2 hours. The mixture was filtered through a pad of Celite. The filtrate was washed with water (400 mL) and concentrated by rotary evaporation to a volume of about 120 mL. The concentrate was diluted with heptane (150 mL) and the resulting solution was concentrated to a volume of about 150 mL, which resulted in precipitation of solid product. The mixture was stirred for 30 minutes at room temperature and filtered. The filter cake was washed with heptane (100 mL) and dried to afford the title compound (29.5 g, 65%). 1H NMR (500 MHz, CDCl3) δ ppm 7.92-7.96 (m, 1H).

reactant | 2,6-dichloro-5-fluoronicotinonitrile | 262 mmol, 50 g | ClC1=C(C#N)C=C(C(=N1)Cl)F | C6HCl2FN2
reactant | potassium fluoride | 516 mmol, 30 g | [F-].[K+]
solvent | DMSO | 125 mL | CS(=O)C | C2H6OS
product | 2-Chloro-5,6-difluoronicotinonitrile | 29.5 g, 65% | ClC1=C(C#N)C=C(C(=N1)F)F | C6HClF2N2
